US05753671
An aqueous solution of potassium carbonate (299 mg, 2.16 mmol, 5 ml water) was added to a solution of ethyl-(4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta-[ 1,2- b]pyridin-11-ylidene)piperidin-1-yl)acetate (214 mg, 0.54 mmol) in methanol (20 ml). The reaction was stirred at room temperature for 24 hours followed by 3 hours at 800° C. Methanol was removed under reduced pressure and the residue partitioned between DCM and brine. The crude product was purified by chromatography on silica gel using a gradient elution of 5% methanol in DCM. Product containing fractions were combined and solvent evaporated to leave 4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}-piperidin-1-yl-ethanol as a white solid (136 mg, 71%).

reactant | potassium carbonate | 2.16 mmol, 5 ml, 299 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl-(4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta-[ 1,2- b]pyridin-11-ylidene)piperidin-1-yl)acetate | 0.54 mmol, 214 mg | C(C)OC(CN1CCC(CC1)=C1C2=C(CCC=3C1=NC=CC3)C=C(C=C2)Cl)=O | C23H25ClN2O2
reactant | methanol | 20 ml | CO | CH4O
product | 4-{8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ylidene}-piperidin-1-yl-ethanol | 136 mg, 71% | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(C)O)C1 | C21H23ClN2O
